US04958026
Under ice cooling, 4 ml of a mixture of formic acid and acetic anhydride (ratio 3:5) is added dropwise to 3.2 g of 2-(benzyloxy-5-(2-dipropylaminoethyl)aniline in 10 ml of chloroform, then the mixture is stirred for 2 hours at room temperature. The solution is washed with aqueous NaHCO3 solution, concentrated, and the residue chromatographed on silica gel with methylene chloride/acetone (1:1), yielding 1.8 g of N-[2-benzyloxy-5-(2-dipropylaminoethyl)phenyl]formamide as an oil.

reactant | formic acid | C(=O)O | CH2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | benzyloxy-5-(2-dipropylaminoethyl)aniline | C(C1=CC=CC=C1)ONC1=CC=CC(=C1)CCN(CCC)CCC | C21H30N2O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-benzyloxy-5-(2-dipropylaminoethyl)phenyl]formamide | 1.8 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCN(CCC)CCC)NC=O | C22H30N2O2
